US06171866B2
2.1.3. N-t-butoxycarbonyl-4-amino-2,5-dimethoxyphenethylamine (J4)
27 g (83 mmol) N-t-butoxycarbonyl-4-nitro-2,5-dimethoxyphenethylamine J3 was dissolved in 300 ml methanol, and 1.5 g 10% palladium on carbon black was added. This suspension was hydrogenated at 2.2 atm. for 18 hours till no further hydrogen uptake was observed. The catalyst was filtered off and the solvent was evaporated to afford 22.3 g white powder (yield: 98%). 1H-NMR (CDCl3), δ (ppm): 1.40 (s, 9H), 1.55 (s, 2H), 2.65 (t, 2H), 3.25 (t, 2H), 3.70 (s, 3H), 3.80 (s, 31H), 6.30 (s, 1H), 6.58 (s, 1H).

reactant | N-t-butoxycarbonyl-4-nitro-2,5-dimethoxyphenethylamine | 83 mmol, 27 g | C(C)(C)(C)OC(=O)NCCC1=C(C=C(C(=C1)OC)[N+](=O)[O-])OC | C15H22N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | N-t-butoxycarbonyl-4-amino-2,5-dimethoxyphenethylamine | 22.3 g, yield: 98% | C(C)(C)(C)OC(=O)NCCC1=C(C=C(C(=C1)OC)N)OC | C15H24N2O4
